US04264353
A 500 millileter, 3-neck flask equipped with a magnetic stirrer, thermometer, dry ice condensor/drying tube and inlet from a phosgene (COCl2) tank via a calibrated rotometer was charged with 50 milliliters of ethylacetate saturated with phosgene at 20° C. (approximately 0.5 mole of phosgene). Additional 100 ml. of ethylacetate was added; (8.9 grams of 5-[1-(4-chlorophenoxy) ethyl]-2-amino-1,3,4-thiadiazole, (prepared above) at a temperature from 0° C. to room temperature was added. The resulting solution was stirred for 17 hours with formation of an emulsion, and then the flask was purged with nitrogen until no COCl2 was detected. The solution was filtered through a Whatman #42 filter paper to yield a slightly cloudy solution which was topped at 60 degrees centigrade with a roto-vac to form 9.2 grams of a pale yellow goop of 5-[1-(4-chlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate dimer.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | approximately 0.5 mole | C(=O)(Cl)Cl | CCl2O
reactant | 5-[1-(4-chlorophenoxy) ethyl]-2-amino-1,3,4-thiadiazole | 8.9 grams | ClC1=CC=C(OC(C)C2=NN=C(S2)N)C=C1 | C10H10ClN3OS
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | ethylacetate | 50 milliliters | C(C)OC(C)=O | C4H8O2
product | 5-[1-(4-chlorophenoxy)ethyl]-1,3,4-thiadiazol-2-yl isocyanate | ClC1=CC=C(OC(C)C2=NN=C(S2)N=C=O)C=C1 | C11H8ClN3O2S
